US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea
Diisopropylethylamine (0.057 ml, 0.328 mmol) and phenyl N-[3-(methylsulfonyl)phenyl]carbamate (96 mg, 0.328 mmol) were reacted with 4-(4-aminophenoxy)-7-(2-methoxyethoxy)-6-cyanoquinoline (100 mg, 0.298 mmol), and the title compound (120 mg, 0.225 mmol, 75.6%) was obtained as white crystals by the same procedure as in Example 34.

reactant | Diisopropylethylamine | 0.328 mmol, 0.057 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenyl N-[3-(methylsulfonyl)phenyl]carbamate | 0.328 mmol, 96 mg | CS(=O)(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C14H13NO4S
reactant | 4-(4-aminophenoxy)-7-(2-methoxyethoxy)-6-cyanoquinoline | 0.298 mmol, 100 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea | 0.225 mmol, 120 mg, 75.6% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C | C27H24N4O6S
